US06117881
2-Chloro-3-nitrobenzaldehyde (150 mg, 20%) was prepared by reaction of 1-bromomethyl-2-chloro-3-nitrobenzene (1.0 g, 3.9 mmol) with silver p-toluenesulfonate (1.94 g, 1.75 equiv.) in DMSO in the presence of Et3N (4 mL, 7 equiv.) at rt for 1 hour.

reactant | 1-bromomethyl-2-chloro-3-nitrobenzene | 3.9 mmol, 1.0 g | BrCC1=C(C(=CC=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | Et3N | 4 mL, 7 equiv. | CCN(CC)CC | C6H15N
reactant | DMSO | CS(=O)C | C2H6OS
catalyst | silver p-toluenesulfonate | 1.94 g, 1.75 equiv. | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[Ag+]
product | 2-Chloro-3-nitrobenzaldehyde | 150 mg, 20% | ClC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4ClNO3
